* C:\Users\julit\Desktop\sem7\analogica\labs_ang1\lab3\lab3_1.asc
D1 N003 N005 MyDiode
V1 N003 0 5
D2 N002 N003 MyDiode
D3 N002 N004 MyDiode
D4 N004 N005 MyDiode
R1 N001 N002 10K
R2 N005 P001 10K
R3 0 N004 10k
V2 P001 0 -10
V3 N001 0 10
.model D D
.lib C:\Users\julit\Documents\LTspiceXVII\lib\cmp\standard.dio
.model MyDiode D(Ron=1m Roff=100Meg Vfwd=0)
.dc V1 -10 10 0.0001
.backanno
.end
